US08729271B2
Ethyl 2-[4-(trifluoromethoxy)phenyl]-1,3-thiazole-5-carboxylate
Lithium aluminum hidride (2.0 M solution in tetrahydrofuran) (2.81 mL) was added to a solution of 2-methylpropyl 2-[4-(trifluoromethoxy)phenyl]-1,3-thiazole-4-carboxylate (881 mg) in tetrahydrofuran (15 mL), and the mixture was stirred at room temperature for 30 min. Sodium sulfate decahydrate was added portionwise and an additional amount of tetrahydrofuran was added, and the mixture was stirred for 1.5 hr. The reaction mixture was filtered through Celite and the solvent was then distilled off under reduced pressure. The resulting residue was purified by column chromatography (NH silica gel cartridge, hexane:ethyl acetate=98:2-25:75) to afford the title compound (361 mg).

reactant | Lithium aluminum | [Al].[Li]
reactant | 2-methylpropyl 2-[4-(trifluoromethoxy)phenyl]-1,3-thiazole-4-carboxylate | 881 mg | FC(OC1=CC=C(C=C1)C=1SC=C(N1)C(=O)OCC(C)C)(F)F | C15H14F3NO3S
reactant | Sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | Ethyl 2-[4-(trifluoromethoxy)phenyl]-1,3-thiazole-5-carboxylate | 361 mg | FC(OC1=CC=C(C=C1)C=1SC(=CN1)C(=O)OCC)(F)F | C13H10F3NO3S
